US07294633B2
13d: 4-hydroxy-6-(3-nitrophenyl)furo[2,3-d]pyrimidine-5-carboxylic acid
0.95 g (3.2 mmols) of 4-hydroxy-6-(3-nitrophenyl)furo[2,3-d]pyrimidine-5-carboxylic acid ethyl ester are place in 30 ml of 5% sodium hydroxide solution and heated for 30 min to 100° C. The reaction mixture is filtered whilst hot and the filtrate cooled to RT. Subsequently, the pH value of the solution is adjusted to 1 with conc. hydrochloric acid, whilst cooling. A brown deposit forms, which is filtered off by suction and dried in a HV. m.p.: >300° C. IR: 3448w, 3237m, 3088w, 1752s, 1734s, 1672s, 1531s, 1474m, 1407m, 1381m, 1346s, 1241m, 1211m.

reactant | 4-hydroxy-6-(3-nitrophenyl)furo[2,3-d]pyrimidine-5-carboxylic acid ethyl ester | 3.2 mmols, 0.95 g | C(C)OC(=O)C1=C(OC=2N=CN=C(C21)O)C2=CC(=CC=C2)[N+](=O)[O-] | C15H11N3O6
solvent | sodium hydroxide | 30 ml | [OH-].[Na+]
product | 4-hydroxy-6-(3-nitrophenyl)furo[2,3-d]pyrimidine-5-carboxylic acid | OC=1C2=C(N=CN1)OC(=C2C(=O)O)C2=CC(=CC=C2)[N+](=O)[O-] | C13H7N3O6
